US08470847B2
4.2: (±)-2-Amino-7-(3-cyclopentyl-3-hydroxyprop-1-yn-1-yl)-1-ethyl-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide
A suspension of 1 g (3.56 mmol) of 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide in 25 ml of a dimethylformamide/triethylamine mixture (V/V; 2.5/1) is placed in a 10 ml microwave tube. This suspension is sparged with argon for 10 minutes and then 0.931 g (7.5 mmol) of (±)-1-cyclopentylprop-2-yn-1-ol, 0.068 g of CuI (0.36 mmol) and 0.125 g of bis(triphenylphosphine) palladium(II)dichloride (0.18 mmol) are successively added.

reactant | 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 3.56 mmol, 1 g | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)Cl)CC | C12H13ClN4O2
reactant | (±)-1-cyclopentylprop-2-yn-1-ol | 7.5 mmol, 0.931 g | C1(CCCC1)C(C#C)O | C8H12O
solvent | dimethylformamide triethylamine | 25 ml | CN(C=O)C.C(C)N(CC)CC
catalyst | CuI | 0.36 mmol, 0.068 g | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II)dichloride | 0.18 mmol, 0.125 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (±)-2-Amino-7-(3-cyclopentyl-3-hydroxyprop-1-yn-1-yl)-1-ethyl-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)C#CC(O)C1CCCC1)CC | C20H24N4O3
